US08232284B2
Cesium carbonate (33 g, 100 mmol) and 2-(2-bromoethyl)-1,3-dioxolane (12 g, 67 mmol) were added to an N,N-dimethylformamide suspension (30 ml) of 5,6-difluoropyridin-3-ol (8.8 g, 67 mmol), and stirred at 100° C. for 1 hour. The reaction solution was cooled to room temperature, water was added, and extracted with ethyl acetate. The organic layer was washed with saturated saline water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:chloroform=1:1 to 0:1) to obtain 5-[2-(1,3-dioxolan-2-yl)ethoxy]-2,3-difluoropyridine (5.9 g, yield: 38%) as a pale yellow oil.

reactant | Cesium carbonate | 100 mmol, 33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 67 mmol, 12 g | BrCCC1OCCO1 | C5H9BrO2
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 5,6-difluoropyridin-3-ol | 67 mmol, 8.8 g | FC=1C=C(C=NC1F)O | C5H3F2NO
solvent | water | O | H2O
product | 5-[2-(1,3-dioxolan-2-yl)ethoxy]-2,3-difluoropyridine | 5.9 g, yield: 38% | O1C(OCC1)CCOC=1C=C(C(=NC1)F)F | C10H11F2NO3
